US07622494B2
N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)acetamide was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine and acetyl chloride in the presence of diisopropylethylamine to give a tan solid (52% yield). 1H-NMR (CDCl3): δ 8.86 (s, 1H), 7.59 (m, 1H), 7.22 (m, 1H), 7.16 (d, 1H), 5.80 (m, 1H), 5.10 (m, 1H), 2.67 (m, 2H), 2.22 (m, 1H), 2.04 (s, 3H), 1.91 (m, 2H), 1.81 (m, 1H); MS m/z 306 (M−1).

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
product | N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)acetamide | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC(C)=O | C14H15BrN2O
